US07820683B2
5-[(1S)-1-methyl-2-oxo-2-pyrrolidin-1-ylethoxy]-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine
Using the same procedure as in Example 26, methyl (2S)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (250 mg, 0.55 mmol) was reacted with pyrrolidine (0.46 ml, 5.5 mmol) to give the title compound as a beige solid (140 mg, 50%), except that the mixture was heated at 55° C. for 20 hours and purified by chromatography on silica gel (eluant: 4% methanol in DCM); NMR Spectrum 1.60 (d, 3H), 1.82 (m, 2H), 1.94 (m, 2H), 3.49-3.30 (m, 3H), 3.76 (m, 1H), 5.62 (q, 1H), 5.77 (s, 2H), 6.95 (d, 1H), 7.28 (m, 2H), 7.35 (d, 1H), 7.74-7.68 (m, 3H), 7.82 (dd, 1H), 8.15 (s, 1H), 8.53 (m, 3H), 11.08 (br s, 1H); Mass spectrum MH+ 494.

reactant | methyl (2S)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.55 mmol, 250 mg | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@H](C(=O)OC)C | C25H22N6O3
reactant | pyrrolidine | 5.5 mmol, 0.46 ml | N1CCCC1 | C4H9N
product | 5-[(1S)-1-methyl-2-oxo-2-pyrrolidin-1-ylethoxy]-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine | 140 mg, 50% | C[C@@H](C(N1CCCC1)=O)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1 | C28H27N7O2
